US08383652B2
A solution of 1.75 g (3 mmol) of ethyl (Z)-2-ethoxy-3-{3′-[methyl-(4-nitrophenoxycarbonyl)amino]biphenyl-4-yl}acrylate, 0.46 mL (3.7 mmol) of phenethylamine, in 20 mL of dimethylformamide is heated at 80° C. for 2 hours. After addition of water, the reaction medium is extracted with ethyl acetate, washed with water, dried over magnesium sulfate, filtered and evaporated. The residue obtained is purified by chromatography on a column of silica eluted with a 70/30 heptane/ethyl acetate mixture. 0.7 g (50%) of ethyl (Z)-2-ethoxy-3-[3′-(1-methyl-3-phenethylureido)biphenyl-4-yl]acrylate is obtained.

reactant | ethyl (Z)-2-ethoxy-3-{3′-[methyl-(4-nitrophenoxycarbonyl)amino]biphenyl-4-yl}acrylate | 3 mmol, 1.75 g | C(C)O\C(\C(=O)OCC)=C/C1=CC=C(C=C1)C1=CC(=CC=C1)N(C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])C | C27H26N2O7
reactant | phenethylamine | 3.7 mmol, 0.46 mL | C(CC1=CC=CC=C1)N | C8H11N
reactant | water | O | H2O
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | ethyl (Z)-2-ethoxy-3-[3′-(1-methyl-3-phenethylureido)biphenyl-4-yl]acrylate | 0.7 g, 50% | C(C)O\C(\C(=O)OCC)=C/C1=CC=C(C=C1)C1=CC(=CC=C1)N(C(=O)NCCC1=CC=CC=C1)C | C29H32N2O4
